US06395785B1
c) E-2-[4-(4-chloro-1,2-diphenyl-but-1-enyl)phenoxy]ethanol
6.9 g of E-1-[4-(2-benzyloxyethoxy)phenyl]-4-chloro-1,2-diphenyl-but-1-ene was dissolved in the mixture of ethyl acetate (60 ml) and ethanol (60 ml). Palladium on carbon (5%, 0.7 g) was added and the solution was stirred vigorously under a hydrogen atmosphere at room temperature until there was not any starting compound left (thin layer chromatography). Palladium on carbon was filtered off through siliceous earth and the filtrate was evaporated to dryness. The residue was crystallized several times from the mixture of ethanol and water.

reactant | E-1-[4-(2-benzyloxyethoxy)phenyl]-4-chloro-1,2-diphenyl-but-1-ene | 6.9 g | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(/CCCl)\C1=CC=CC=C1)\C1=CC=CC=C1 | C31H29ClO2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.7 g | [Pd] | Pd
product | E-2-[4-(4-chloro-1,2-diphenyl-but-1-enyl)phenoxy]ethanol | ClCC\C(=C(\C1=CC=CC=C1)/C1=CC=C(OCCO)C=C1)\C1=CC=CC=C1 | C24H23ClO2
